US09029558B2
Synthesis of 3,6-Di(9H-carbazol-9-yl)-9-phenyl-9H-carbazole (Abbreviation: PhCzGI)
The Rf values of the objective substance, 3,6-dibromo-9-phenyl-9H-carbazole, and carbazole were respectively 0.32, 0.73, and 0.18 which were obtained by silica gel thin layer chromatography (TLC) (with a developing solvent containing ethyl acetate and hexane in a 1:10 ratio).

reactant | 3,6-dibromo-9-phenyl-9H-carbazole | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)C1=CC=CC=C1 | C18H11Br2N
reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3,6-Di(9H-carbazol-9-yl)-9-phenyl-9H-carbazole | C1=CC=CC=2C3=CC=CC=C3N(C12)C=1C=CC=2N(C3=CC=C(C=C3C2C1)N1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C42H27N3
